US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-chlorobenzenesulfonylamino)-4-methylthiobutanoic acid (10 g) and ethyl 3-aminobenzoate (4.1 g) were condensed in dichloromethane (80 ml) in the presence of N,N'-dicyclohexylcarbodiimide (7.65 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from methanol-ethyl acetate to obtain (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-4-methylthiobutanamide (2.13 g).

reactant | (S)-2-(4-chlorobenzenesulfonylamino)-4-methylthiobutanoic acid | 10 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)O)CCC | C11H14ClNO3S2
reactant | ethyl 3-aminobenzoate | 4.1 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | N,N'-dicyclohexylcarbodiimide | 7.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-4-methylthiobutanamide | 2.13 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)NC1=CC(=CC=C1)C(=O)OCC)CCC | C20H23ClN2O4S2
